### PR TITLE
[Merged by Bors] - chore(Data/Finset): Rename filter_neg to filter_not

### PR DESCRIPTION
**Pull request by metakunt**
Make namings of several theorems consistent.

Filter.neg has a different meaning https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Filter/Pointwise.html#Filter.instNeg

### CODE REVIEW

File: Mathlib/Data/Finset/Card.lean [hunk 1]
```diff
@@ -565,6 +565,14 @@ lemma card_union_eq_card_add_card : #(s ∪ t) = #s + #t ↔ Disjoint s t := by
 
 @[simp] alias ⟨_, card_union_of_disjoint⟩ := card_union_eq_card_add_card
 
+omit [DecidableEq α] in
+theorem card_filter_add_card_filter_not (p : α → Prop) [DecidablePred p] :
+    #(s.filter p) + #(s.filter (fun a => ¬p a)) = #s := by
+  classical
+  rw [← card_union_of_disjoint (disjoint_filter_filter_not s s p)]
+  congr
+  grind
```
Comment (ocfnash) [inline Mathlib/Data/Finset/Card.lean]: This can be:
```suggestion
  rw [← card_union_of_disjoint (disjoint_filter_filter_not s s p), filter_union_filter_neg_eq]
```
However we shouldn't be adding this lemma since it already exists as [Finset.filter_card_add_filter_neg_card_eq_card](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Finset/Card.html#Finset.filter_card_add_filter_neg_card_eq_card), moreover with a more general statement since it generalises over the argument `[∀ x, Decidable (¬p x)]` (albeit this is extremely conservative).

**Review by ocfnash — COMMENTED** [review]
The proposed lemma already exists but I do agree about the naming fix. If you wish to proceed, perhaps you could also apply it to `filter_card_add_filter_neg_card_eq_card`.

File: Mathlib/Data/Finset/Card.lean (hunk 1 above)
Comment (metakunt) [reply Mathlib/Data/Finset/Card.lean]: I agree. I thought the theorem was missing when it was proven in more generality. I removed the theorem and kept the name changes.

**Comment by ocfnash** [comment]
> Is `card_filter_add_card_filter_not` or `card_filter_add_card_filter_not_eq_card` preferable?

I would say `card_filter_add_card_filter_not` (your current proposal) is preferable.

**Comment by metakunt** [comment]
Thanks for the script suggestion. It added more deprecations than I expected. I guess someone forgot to deprecate it when it was renamed, right?

**Comment by ocfnash** [comment]
Because naming is somewhat subjective, I'd like another maintainer to take a look but I am in favour of these changes.

maintainer merge

**Review by b-mehta — COMMENTED** [review]
Yup, this is definitely the right thing to do.

bors merge
